US09085606B2
Preparation of racemic 3-amino-3-(3-chloro-5-(2-hydroxypropan-2-yl)phenyl)propionic acid
A suspension of 3-chloro-5-(2-hydroxypropan-2-yl)benzaldehyde (2.35 g, 11.83 mmol), malonic acid (1.50 g, 14.41 mmol) and ammonium acetate (1.85 g, 24.00 mmol) in isopropanol (30.0 mL) was heated at reflux under nitrogen atmosphere for 4 h to afford a colorless suspension in a yellow-orange solution. The hot reaction mixture was filtered and the solid was washed with hot isopropanol (2×25 mL) and discarded. The filtrate was evaporated in vacuo to afford a mixture of the desired acid (40%) and the byproduct: 3-(3-chloro-5-(2-hydroxypropan-2-yl)phenyl)acrylic acid (60%) as a cream yellow foamy solid. The solid was recrystallized several times (×5) from ethyl acetate to afford the pure desired product, free from the byproduct impurity, as a colorless solid (632.8 mg). LC-MS analysis of the solid shows the desired product's mass: m/z 258 (35ClM+H), m/z 260 (37ClM+H), m/z 240 (35ClM+H−H2O) and m/z 242 (37ClM+H−H2O); Calcd for C12H16ClNO3: 257.71. 1H NMR (400 MHz, DMSO-d6): δ 1.42 (s, 6H, (CH3)2C—), 2.30 (dd, J=8.0 and 6.0 Hz, 2H, —CH2—COOH), 4.21 (appt, J=7.0 Hz, 1H, —NH—CH—CH2—COOH), 6.33 (s, 1H, (CH3)2—C—OH), 7.31 (appt, J=1.60 Hz, 1H), 7.38 (appt, J=1.70 Hz, 1H), 7.42 ((d, J=9.0 Hz, 1H). 1H NMR spectrum of the sample was consistent with the suggested structure of the product.

reactant | 3-chloro-5-(2-hydroxypropan-2-yl)benzaldehyde | 11.83 mmol, 2.35 g | ClC=1C=C(C=O)C=C(C1)C(C)(C)O | C10H11ClO2
reactant | malonic acid | 14.41 mmol, 1.50 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 24.00 mmol, 1.85 g | C(C)(=O)[O-].[NH4+]
reactant | 3-(3-chloro-5-(2-hydroxypropan-2-yl)phenyl)acrylic acid | ClC=1C=C(C=C(C1)C(C)(C)O)C=CC(=O)O | C12H13ClO3
solvent | isopropanol | 30.0 mL | C(C)(C)O | C3H8O
product | racemic 3-amino-3-(3-chloro-5-(2-hydroxypropan-2-yl)phenyl)propionic acid | NC(CC(=O)O)C1=CC(=CC(=C1)C(C)(C)O)Cl | C12H16ClNO3
